US08685977B2
5-chloro-4-(3-chloro-4-(trifluoromethyl)phenoxy)-2-fluoro-N-(methylsulfonyl)benzamide
To 3-chloro-4-(trifluoromethyl)phenol (Preparation 16, 110 mg, 0.56 mmol) and 5-chloro-2,4-difluoro-N-(methylsulfonyl)benzamide (Preparation 13, 150 mg, 0.56 mmol) dissolved in dimethylsulfoxide (5 ml) was added potassium carbonate (232 mg, 1.68 mmol) and the mixture stirred at 90° C. for 18 hours under nitrogen. The mixture was poured onto ammonium chloride (aq) and extracted with ethyl acetate (3×20 mL), washed with water (3×20 mL) and dried (MgSO4). Purification of the crude product by silica gel column chromatography using 80% Ethyl acetate in heptane furnished the title compound as white solid (12.2 mg, 4.9%).

reactant | 3-chloro-4-(trifluoromethyl)phenol | 0.56 mmol, 110 mg | ClC=1C=C(C=CC1C(F)(F)F)O | C7H4ClF3O
reactant | 5-chloro-2,4-difluoro-N-(methylsulfonyl)benzamide | 0.56 mmol, 150 mg | ClC=1C(=CC(=C(C(=O)NS(=O)(=O)C)C1)F)F | C8H6ClF2NO3S
reactant | potassium carbonate | 1.68 mmol, 232 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 5-chloro-4-(3-chloro-4-(trifluoromethyl)phenoxy)-2-fluoro-N-(methylsulfonyl)benzamide | 12.2 mg, 4.9% | ClC=1C(=CC(=C(C(=O)NS(=O)(=O)C)C1)F)OC1=CC(=C(C=C1)C(F)(F)F)Cl | C15H9Cl2F4NO4S
